US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-5-chlorobenzene (650 mg, 3.4 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (735 mg, 3.4 mmol) and the resultant product was crystallized from isopropyl ether to give 3-[(4,5,7-trifluorobenzothiazol-2yl)methyl]-5-chlorophenylacetonitrile (333 mg, 28%) as a colorless powder.

reactant | 1,3-biscyanomethyl-5-chlorobenzene | 3.4 mmol, 650 mg | C(#N)CC1=CC(=CC(=C1)Cl)CC#N | C10H7ClN2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 3.4 mmol, 735 mg | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | 3-[(4,5,7-trifluorobenzothiazol-2yl)methyl]-5-chlorophenylacetonitrile | 333 mg, 28% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=C(C2)Cl)CC#N)F)F | C16H8ClF3N2S
